US08530670B2
1-(1H-Benzo[d]imidazol-5-yl)-5-(4-(4-methylpiperazin-1-yl)phenyl)-pyrrolidine-2,4-dione
The compound was synthesized starting from 1H-benzo[d]imidazol-5-amine (0.85 mg, 6.37 mmol), 4-(4-methylpiperazin-1-yl)benzaldehyde (1.3 g, 6.37 mmol), mono-tert-butyl malonate (1.53 g, 9.55 mmol), 1-isocyano-2-methylpropan-2-yl methyl carbonate (1.1 g, 7.01 mmol) in MeOH/CH2Cl2 1:1 (30 ml) with stirring for 2.5 days and sodium tert.-butoxide (0.235 g, 2.10 mmol) according to method 5.

reactant | 1H-benzo[d]imidazol-5-amine | 6.37 mmol, 0.85 mg | N1C=NC2=C1C=CC(=C2)N | C7H7N3
reactant | 4-(4-methylpiperazin-1-yl)benzaldehyde | 6.37 mmol, 1.3 g | CN1CCN(CC1)C1=CC=C(C=O)C=C1 | C12H16N2O
reactant | mono-tert-butyl malonate | 9.55 mmol, 1.53 g | C(CC(=O)[O-])(=O)OC(C)(C)C
reactant | 1-isocyano-2-methylpropan-2-yl methyl carbonate | 7.01 mmol, 1.1 g | C(OC(C[N+]#[C-])(C)C)(OC)=O | C7H11NO3
reactant | sodium tert.-butoxide | 2.10 mmol, 0.235 g | CC(C)([O-])C.[Na+]
solvent | MeOH CH2Cl2 | 30 ml | CO.C(Cl)Cl
product | 1-(1H-Benzo[d]imidazol-5-yl)-5-(4-(4-methylpiperazin-1-yl)phenyl)-pyrrolidine-2,4-dione | N1C=NC2=C1C=CC(=C2)N2C(CC(C2C2=CC=C(C=C2)N2CCN(CC2)C)=O)=O | C22H23N5O2
